US07601846B2
3-Benzyl-3H-benzothiazol-2-ylideneamine hydrochloride salt (18) (Zhu et al., J. Med. Chem. 2002, 45, 5090-5097)
A mixture of 2-aminobenzothiazole (2.116 g, 13.7 mmol), benzyl chloride (2.1 mL, 18.2 mmol) and sodium iodide (200 mg) were refluxed for 8 hours in methoxyethanol (25 mL). Crystallization occurred upon cooling. The crystals were filtered off and thoroughly washed with ether to give yellow crystals in 39% yield: mp 275-278° C.; 1H-NMR (DMSO-d6) 5.65 (s, 2H), 7.28, (d, 2H), 7.36 (m, 4H), 7.50 (t, 1H), 7.55 (d, 1H) 8.02 (s, 1H); HR-MS (EI) m/z 240.0719 (M+).

reactant | 2-aminobenzothiazole | 13.7 mmol, 2.116 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | benzyl chloride | 18.2 mmol, 2.1 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium iodide | 200 mg | [I-].[Na+]
solvent | methoxyethanol | 25 mL | COC(C)O | C3H8O2
product | 3-Benzyl-3H-benzothiazol-2-ylideneamine hydrochloride salt | 39% yield | Cl.C(C1=CC=CC=C1)N1C(SC2=C1C=CC=C2)=N | InChI=1S/C14H12N2S.ClH/c15-14-16(10-11-6-2-1-3-7-11)12-8-4-5-9-13(12)17-14;/h1-9,15H,10H2;1H
